US09302989B2
tert-butyl 4-(6-bromo-2-oxoquinolin-1(2H)-yl)butylcarbamate
To a solution of 6-bromoquinolin-2(1H)-one (430 mg, 1.91 mmol) in tetrahydrofuran (8 ml) was added sodium bis(trimethylsilyl)amide (2.1 ml, 2.08 mmol). After 15 minutes, 4-(boc-amino)butyl bromide (403 mg, 1.6 mmol) was added. The solution was stirred for 15 hours, concentrated and purified by flash chromatography to provide the title compound.

reactant | 6-bromoquinolin-2(1H)-one | 1.91 mmol, 430 mg | BrC=1C=C2C=CC(NC2=CC1)=O | C9H6BrNO
reactant | sodium bis(trimethylsilyl)amide | 2.08 mmol, 2.1 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 4-(boc-amino)butyl bromide | 1.6 mmol, 403 mg | C(=O)(OC(C)(C)C)NCCCCBr | C9H18BrNO2
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | tert-butyl 4-(6-bromo-2-oxoquinolin-1(2H)-yl)butylcarbamate | BrC=1C=C2C=CC(N(C2=CC1)CCCCNC(OC(C)(C)C)=O)=O | C18H23BrN2O3
